US06555541B1
c) 4-(3-Amino-4-chloro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 5-(4-tert-butoxycarbonyl-piperazin-1-yl)-2-chloro-benzoic acid lithium salt (2.1 g) in N,N-dimethylformamide (50 ml) was added diphenyl phosphorylazide (1.4 ml) and reaction mixture stirred at ambient temperature for 1 hour. Water (30 ml) was added and the reaction mixture heated to 60° C. for 2 hours. After cooling to room temperature, the reaction was poured into ethyl acetate/water, the organic layer separated, washed with water, aqueous NaHCO3 and brine. The organic layer was dried (MgSO4) and concentrated. Purification of the residue by silica gel chromatography (eluting ethyl acetate/iso-hexane (1:3 to 1:1) gave the subtitle product (1.5 g).

reactant | 5-(4-tert-butoxycarbonyl-piperazin-1-yl)-2-chloro-benzoic acid lithium salt | 2.1 g | [Li+].C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC(=C(C(=O)[O-])C1)Cl
reactant | diphenyl phosphorylazide | 1.4 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Water | 30 ml | O | H2O
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(3-Amino-4-chloro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)N | C15H22ClN3O2
